US05792777
A solution of sec-butyllithium in cyclohexane (7.4 ml, 1.3M) was added dropwise, with stirring, to a solution of 4-bromo-4'-(tert-butyldimethylsilyloxy)biphenyl (2.9 g) in dry tetrahydrofuran (30 ml) under an atmosphere of argon at -78° C. The mixture was stirred for 5 minutes and a solution of quinuclidin-3-one (0.9 g) in dry tetrahydrofuran (12 ml) was then added over a period of 2 minutes. The mixture was stirred at -78° C. for a further 30 minutes and the mixture then allowed to warm to room temperature over 2 hours. Aqueous 2M hydrochloric acid (18 ml) was added to the reaction mixture, whilst keeping the temperature of the reaction mixture below 10° C. The aqueous layer was separated and washed with diethyl ether (2×20 ml) before the addition of excess sodium hydroxide solution (density 1.35 g/cm3) to pH 14. The mixture was extracted with warm ethyl acetate (50° C.) and the ethyl acetate phase separated, dried (Na2SO4) and evaporated. The residue was dissolved in dry tetrahydrofuran (20 ml) and added to a solution of tetrabutyl ammonium fluoride in tetrahydrofuran (1.6 ml, 1.0M). The mixture was stirred at room temperature for 2 hours. The tetrahydrofuran was evaporated, an excess of saturated ethereal hydrogen chloride solution was added to precipitate a solid which was crystallised from methanol/ethyl acetate to give as a colourless solid, 3-(4'-hydroxybiphenyl-4-yl)-3-hydroxy-quinuclidine hydrochloride (0.93 g), m.p. 270°-271° C., microanalysis, found: C, 66.5; H, 6.5; N, 4.1%; C19H21NO2.HCl.0.66H2O requires: C, 66.5: H, 6.8: N, 4.1%; NMR ([CD3 ]2SO): 1.4-1.6(1H, m), 1.7-1.9(2H, m), 2.3-2.4(2H, m), 3.1-3.4(5H, m), 3.8-3.9(1H, d), 5.9(1H, s), 6.9-7.5(4H, d of d), 7.6(4H, s), 9.6(1H, s); m/Z 296 (M+H).

reactant | sec-butyllithium | C(C)(CC)[Li]
reactant | 4-bromo-4'-(tert-butyldimethylsilyloxy)biphenyl | 2.9 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C | C18H23BrOSi
reactant | quinuclidin-3-one | 0.9 g | N12CC(C(CC1)CC2)=O | C7H11NO
reactant | hydrochloric acid | 2M, 18 ml | Cl | ClH
solvent | cyclohexane | 1.3M, 7.4 ml | C1CCCCC1 | C6H12
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | 3-(4'-hydroxybiphenyl-4-yl)-3-hydroxy-quinuclidine hydrochloride | 0.93 g | Cl.OC1=CC=C(C=C1)C1=CC=C(C=C1)C1(CN2CCC1CC2)O | InChI=1S/C19H21NO2.ClH/c21-18-7-3-15(4-8-18)14-1-5-16(6-2-14)19(22)13-20-11-9-17(19)10-12-20;/h1-8,17,21-22H,9-13H2;1H
